US04195023
A mixture of 14.0 g (0.1 mole) of 2-fluorobenzoic acid and 30 ml of thionyl chloride (SOCl2) is refluxed in 70 ml of benzene for four hours. The mixture is cooled and concentrated under vacuum to give 2-fluorobenzoyl chloride as a liquid.

reactant | 2-fluorobenzoic acid | 0.1 mole, 14.0 g | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | 2-fluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
